US03939267
The starting material is prepared as follows: The mixture of 3.5 g of 4-phenoxy-3-amino-5-(2-acetamidophenylsulfamoyl)-benzoic acid and 30 ml of furfural is heated to 100° for five hours and allowed to stand at room temperature for 16 hours. It is evaporated under reduced pressure, the residue triturated with diethyl ether and dissolved in 75 ml of ethanol. Thereupon 2 g of sodium borohydride are added while stirring and cooling followed by another 0.5 g thereof after 4 hours and another 0.5 g thereof after 16 hours and stirring is continued for one hour. Thereupon 100 ml of water are added, the mixture filtered and the filtrate acidified with hydrochloric acid to a pH of 2-3. The precipitate formed is filtered off and recrystallized from 30% aqueous ethanol to yield the 4-phenoxy-3-furfurylamino-5-(2-acetamidophenylsulfamoyl)-benzoic acid melting at 207°-210° with decomposition.

reactant | 4-phenoxy-3-amino-5-(2-acetamidophenylsulfamoyl)-benzoic acid | 3.5 g | O(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(NC1=C(C=CC=C1)NC(C)=O)(=O)=O)N | C21H19N3O6S
reactant | furfural | 30 ml | C(C1=CC=CO1)=O | C5H4O2
product | 4-phenoxy-3-furfurylamino-5-(2-acetamidophenylsulfamoyl)-benzoic acid | O(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1S(NC1=C(C=CC=C1)NC(C)=O)(=O)=O)NCC1=CC=CO1 | C26H23N3O7S
